US08124629B2
Triphenylphosphine (4.08 g, 15.5 mmol), carbon tetrachloride (7.0 mL, 73 mmol), (2-benzenesulfonyl-phenyl)-methanol (1.90 g, 7.65 mmol) and tetrahydrofuran (40 mL) were combined and heated at reflux for 2 hours. The reaction mixture was cooled to room temperature, then stirred at room temperature for 60 hours. The reaction mixture was diluted with water, then extracted three times with ethyl acetate. The combined organic phases were washed with brine, dried over MgSO4, filtered, and concentrated to give the crude product as an oily solid. A solution of this crude product and dichloromethane was evaporated over silica gel, and the resulting silica gel supported crude product was loaded onto an Analogix SuperFlash™ column. Flash chromatography (0%-15% ethyl acetate in hexanes) afforded 1.73 g (85%) of 2-(benzenesulfonyl)benzyl chloride as an off-white, crystalline solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.14 (d, J=7.8 Hz, 1 H), 7.93 (d, J=7.2 Hz, 2 H), 7.56-7.82 (m, 6 H), 5.07 (s, 2 H). HRMS (EI+) cald. for C13H11ClO2S [M+] 266.0168, obsd. 266.0168.

reactant | Triphenylphosphine | 15.5 mmol, 4.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 73 mmol, 7.0 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | (2-benzenesulfonyl-phenyl)-methanol | 7.65 mmol, 1.90 g | C1(=CC=CC=C1)S(=O)(=O)C1=C(C=CC=C1)CO | C13H12O3S
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(benzenesulfonyl)benzyl chloride | 1.73 g, 85% | C1(=CC=CC=C1)S(=O)(=O)C1=C(CCl)C=CC=C1 | C13H11ClO2S
